US08084620B2
Step 3 Thionyl chloride (0.111 mL, 1.524 mmol) was added to a solution of benzotriazole (594 mg, 4.99 mmol) in DCM (8 mL) at rt and the mixture was stirred for 30 min. A solution of 3-bromo-6-hydroxy-2-methylbenzoic acid (320 mg, 1.385 mmol) in THF (8.00 mL) was added and the mixture was stirred at rt for 2 hrs. The mixture was filtered and the solid was washed with DCM (3 mL). The filtrate was concentrated, and the residue was dissolved in aniline (2 g, 21.48 mmol) and heated in a sealed tube by microwave irradiation at 150° C. for 10 min. The mixture was diluted with EtOAc (100 mL) and washed with 2 M hydrochloric acid (20 mL), water (10 mL) and brine (10 mL), dried and concentrated. The residue was triturated with DCM (4 mL) to give the 3-bromo-6-hydroxy-2-methyl-N-phenylbenzamide as light-colored solid (290 mg, 68%). Mass spectrum m/z 306, 308 (M+H)+.

reactant | Thionyl chloride | 1.524 mmol, 0.111 mL | S(=O)(Cl)Cl | Cl2OS
reactant | benzotriazole | 4.99 mmol, 594 mg | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | 3-bromo-6-hydroxy-2-methylbenzoic acid | 1.385 mmol, 320 mg | BrC=1C(=C(C(=O)O)C(=CC1)O)C | C8H7BrO3
reactant | aniline | 21.48 mmol, 2 g | NC1=CC=CC=C1 | C6H7N
solvent | DCM | 8 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 8.00 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 3-bromo-6-hydroxy-2-methyl-N-phenylbenzamide | 290 mg, 68% | BrC=1C(=C(C(=O)NC2=CC=CC=C2)C(=CC1)O)C | C14H12BrNO2
